US06455520B1
Diethyl azodicarboxylate (2.26 g) was added dropwise to a stirred mixture of N-isopropyl-4-hydroxypiperidine (Helv. Chim. Acta, 1966, 46, 693; 1.57 g), ethyl 3-hydroxybenzoate (1.66 g), triphenylphosphine (3.4 g) and THF (40 ml) which had been cooled to 0° C. The mixture was stirred at ambient temperature for 42 hours. The solvent was evaporated and the residue was partitioned between ethyl acetate and 2N aqueous hydrochloric acid. The aqueous phase was washed with ethyl acetate, basified to pH10 by the addition of solid potassium carbonate and extracted with diethyl ether. The organic extract was dried over magnesium sulphate and evaporated to give ethyl 3-(N-isopropypiperidin-4-yloxy)benzoate as an oil (1.53 g); NMR Spectrum: (CDCl3) 1.06 (d, 6H), 1.38 (t, 3H), 1.8 (m, 2H), 2.07 (m, 2H), 2.41 (m, 2H), 2.72 (m, 1H), 2.78 (m, 2H), 4.38 (m, 2H), 7.08 (m, 1H), 7.32 (t, 1H), 7.57 (d, 1H), 7.62 (d, 1H). The oil so obtained was dissolved in diethyl ether (20 ml) and a 1M solution of hydrogen chloride in diethyl ether (12 ml) was added. The resultant precipitate was isolated to give ethyl 3-(N-isopropypiperidin-4-yloxy)benzoate hydrochloride salt (1.55 g).

reactant | Diethyl azodicarboxylate | 2.26 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N-isopropyl-4-hydroxypiperidine | 1.57 g | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | ethyl 3-hydroxybenzoate | 1.66 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | triphenylphosphine | 3.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | ethyl 3-(N-isopropypiperidin-4-yloxy)benzoate | 1.53 g | C(C)(C)N1CCC(CC1)OC=1C=C(C(=O)OCC)C=CC1 | C17H25NO3
